US07816371B2
a. (R)-Methyl 3-hydroxy-2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)propanoate
A round bottom flask was charged with 5-nitro-isochromen-1-one (10 g, 0.05 mol), methanol (200 mL, 5 mol), triethylamine (18 mL, 0.13 mol) and (R)-methyl 2-amino-3-hydroxypropanoate hydrochloride (9.8 g, 0.063 mol) where by the reaction became homogeneous. The reaction was then heated at 70° C. overnight. The solvent was removed and the residue purified by flash chromatography (120 g, 0-10% MeOH/DCM) to yield the product as a yellow solid. MS m/z=293.5 (M+H).

reactant | 5-nitro-isochromen-1-one | 0.05 mol, 10 g | [N+](=O)([O-])C1=C2C=COC(C2=CC=C1)=O | C9H5NO4
reactant | methanol | 5 mol, 200 mL | CO | CH4O
reactant | triethylamine | 0.13 mol, 18 mL | C(C)N(CC)CC | C6H15N
reactant | (R)-methyl 2-amino-3-hydroxypropanoate hydrochloride | 0.063 mol, 9.8 g | Cl.N[C@@H](C(=O)OC)CO
product | (R)-Methyl 3-hydroxy-2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)propanoate | OC[C@H](C(=O)OC)N1C(C2=CC=CC(=C2C=C1)[N+](=O)[O-])=O | C13H12N2O6
